*$
* PART NUMBER: NJM2082 
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2082 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2082_ME
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2082_ME
.ends  NJM2082
*$
.subckt NJM2082_ME  1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  css  10 99 1.0000E-30
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 15.978E6 -1E3 1E3 16E6 -16E6
  ga    6  0 11 12 791.68E-6
  gcm   0  6 10 99 25.035E-9
  iss   3 10 dc 600.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx1
  j2   12  1 10 jx2
  r2    6  9 100.00E3
  rd1   4 11 1.2631E3
  rd2   4 12 1.2631E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8000E3
  rss  10 99 333.33E3
  vb    9  0 dc 0
  vc    3 53 dc 2.2979
  ve   54  4 dc 2.7979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 PJF(Is=8.7500E-12 Beta=1.0446E-3 Vto=-.999)
.model jx2 PJF(Is=6.2500E-12 Beta=1.0446E-3 Vto=-1.001000)
.ends
*$